US04083985
Ethanolic sodium ethoxide, previously prepared from 2.9 g of metallic sodium and 100 ml of ethanol, was added to diethyl methyl-malonate, 50 g, and the mixture was refluxed for 30 min. then cooled to 5°. A solution of 2-methylenequinuclidin-3-one, 39.4 g, in ethanol, 50 ml, was then added dropwise and with stirring. After 16 hrs. at room temperature, the resulting solution was neutralized with acetic acid then subjected to evaporation at reduced pressure. Water, 100 ml was added and the mixture was extracted with chloroform. Evaporation of this solvent gave diethyl (3-oxo quinuclidin-2-yl)methyl-methylmalonate, 72 g (81%), m.p., 58.4° (from petroleum ether).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 2.9 g | [Na] | Na
reactant | diethyl methyl-malonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 2-methylenequinuclidin-3-one | C=C1N2CCC(C1=O)CC2 | C8H11NO
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | diethyl (3-oxo quinuclidin-2-yl)methyl-methylmalonate | O=C1C(N2CCC1CC2)CC(C(=O)OCC)(C(=O)OCC)C | C16H25NO5
